US07875636B2
A microwave vial was charged with 2-(4-isopropenylphenyl)-N-{(1R)-1-[5-(2,2,2-trifluoroethoxy)pyridin-2-yl]ethyl}acetamide (300 mg, 0.793 mmol) and THF (500 uL). The solution was cooled to 0° C. and borane tetrahydrofuran complex (1.19 mL, 1.19 mmol) was added via syringe. The reaction was warmed to room temperature over 1.5 h., then NaOH (5M, 634 uL, 3.17 mmol) was added dropwise, followed by the slow addition of hydrogen peroxide (30 wt. % in water, 991 uL, 8.72 mmol). After stirring for 30 min, the mixture was diluted with CH2Cl2 (30 mL) and water (30 mL), and the layers were separated. The aqueous layer was washed with CH2Cl2 (2×15 mL) and the combined organic layer was dried over MgSO4, filtered, and concentrated. The resulting crude material was purified by normal phase chromatography (20-100% EtOAc/Hexanes) to give 133 mg (42%) of 2-[4-(2-hydroxy-1-methylethyl)phenyl]-N-{(1R)-1-[5-(2,2,2-trifluoroethoxy)pyridin-2-yl]ethyl}acetamide as a colorless oil. 1H NMR (CDCl3, 400 MHz) δ 8.20 (d, J=2.57 Hz, 1H), 7.21 (m, 6H), 6.69 (d, J=6.96 Hz, 1H), 5.10 (quint. J=6.96 Hz, 1H), 4.38 (q, J=8.00, 2H), 3.71 (m, 2H), 3.57 (s, 2H), 2.96 (m, 1H), 1.40 (d, J=6.67 Hz, 3H), 1.28 (d, J=6.96 Hz, 3H); MS (Electrospray): m/z 397.4 (M+H). The two diastereomers were separable by chiral HPLC under the following conditions: Column: ChiralPak AD (4.6 mm×250 mm, 10 u), Solvent: Hex/EtOH/MeOH (85/7.5/7.5), 1 mL/L diethylamine, Flow rate: 1 mL/min, Retention times: 11.3 and 12.8 min

reactant | 2-(4-isopropenylphenyl)-N-{(1R)-1-[5-(2,2,2-trifluoroethoxy)pyridin-2-yl]ethyl}acetamide | 0.793 mmol, 300 mg | C(=C)(C)C1=CC=C(C=C1)CC(=O)N[C@H](C)C1=NC=C(C=C1)OCC(F)(F)F | C20H21F3N2O2
reactant | THF | 500 uL | C1CCOC1 | C4H8O
reactant | NaOH | 3.17 mmol, 5M, 634 uL | [OH-].[Na+]
reactant | hydrogen peroxide | 8.72 mmol, 991 uL | OO | H2O2
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
solvent | water | 30 mL | O | H2O
product | 2-[4-(2-hydroxy-1-methylethyl)phenyl]-N-{(1R)-1-[5-(2,2,2-trifluoroethoxy)pyridin-2-yl]ethyl}acetamide | 133 mg, 42% | OCC(C)C1=CC=C(C=C1)CC(=O)N[C@H](C)C1=NC=C(C=C1)OCC(F)(F)F | C20H23F3N2O3
